Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Nadolol
 
Attending: ___.
 
Chief Complaint:
abdominal pain, fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with HCV cirrhosis c/b portal hypertension, esophageal 
varices and HCC s/p TACE on ___ who presents to the ED with 
acute onset of of abdominal pain that woke him from sleep. He 
reports low grade temps.  The pain began at 1am and was located 
in his RUQ.  He had not had any other symptoms since the 
procedure.  He was informed that he might get fever and 
abdominal pain, but he wanted to be safe and decided to come in. 
 Temperature was up to 101.5 at home.  He denies other symptoms 
such as CP, SOB, N/V, or diarrhea.

 
Past Medical History:
- HCV cirrhosis, genotype I, recurred after clearance off of 
treatment  
- Portal hypertension  
- Esophageal varices (4 cords of grade II, ___  
- Stomach polyp (s/p removal ___  
- Iron deficiency anemia  
- Sarcoid, polymyositis developed after interferon therapy 
treated with steroids  
- Subconjunctival hemorrhage history  
- Hypothyroidism secondary to interferon  
- History of positive PPD treated with INH 
- DM

 
Social History:
___
Family History:
His parents both died of 'old age,' his father lived to ___ and  
his mother lived to ___.  

 
Physical Exam:
ADMISSION EXAM:
Vitals: T:  98.1, 116/68, 86, 18, 94% RA
General: Alert, oriented, appears uncomfortable but without 
acute distress
HEENT: sclera anicteric, MMM, OP clear
Neck: no ___: CTAB no wh/rh/r.
CV: RRR, no S1, III/VI holosystolic murmur heard across 
precordium  
Abdomen: firm, distended, TTP, + BS,  
Ext: Warm, well perfused, 2+ pulses, trace ___ edema b/l in feet

DISCHARGE EXAM:
98.5, 140/69, 88, 18, 94% RA
GEN: uncomfortable but in no acute distress.  more mobile than 
yesterday's exam, and sitting on edge of bed eating breakfast
HEENT: EOMI, sclera anicteric, MMM
___: RRR, no S1, III/VI holosystolic murmur heard across 
precordium, unchanged from previous exam
Abdomen: firm, distended, TTP over RUQ and epigastrium, NABS
ExtL 2+ pulses, no edema
 
Pertinent Results:
ADMISSION LABS:
___ 03:00AM BLOOD WBC-3.9* RBC-4.16* Hgb-11.2* Hct-33.3* 
MCV-80* MCH-27.0 MCHC-33.7 RDW-15.4 Plt ___
___ 03:00AM BLOOD Neuts-70 Bands-1 Lymphs-17* Monos-10 
Eos-1 Baso-1 ___ Myelos-0
___ 03:00AM BLOOD Hypochr-3+ Anisocy-2+ Poiklo-NORMAL 
Macrocy-OCCASIONAL Microcy-2+ Polychr-NORMAL Ovalocy-1+
___ 03:00AM BLOOD ___ PTT-24.9 ___
___ 03:00AM BLOOD UreaN-14 Creat-0.8
___ 03:00AM BLOOD ALT-129* AST-186* AlkPhos-143* 
TotBili-1.2
___ 03:07AM BLOOD Glucose-274* Lactate-1.9 Na-132* K-4.8 
Cl-98* calHCO3-25

DISCHARGE LABS:
___ 04:30AM BLOOD WBC-4.1 RBC-3.75* Hgb-10.3* Hct-30.5* 
MCV-81* MCH-27.4 MCHC-33.7 RDW-16.0* Plt Ct-86*
___ 04:30AM BLOOD ___ PTT-27.6 ___
___ 04:30AM BLOOD Glucose-232* UreaN-16 Creat-0.7 Na-133 
K-4.3 Cl-100 HCO3-26 AnGap-11
___ 04:30AM BLOOD ALT-88* AST-57* AlkPhos-128 TotBili-1.7*
___ 04:30AM BLOOD Calcium-8.3* Phos-2.3* Mg-2.0

IMAGES:
___ ABD U/S:No evidence for complication status post 
chemoembolization. No hepatic abscess. No biliary ductal 
dilation. Echogenic segment VI mass better demonstrated on prior 
CT/MRI. Unchanged splenomegaly.
___ CXR:Interval worsening of congestive failure compared to 
___. No convincing evidence of pneumonia.
 
Brief Hospital Course:
___ yo M with HCV cirrhosis c/b portal hypertension, esophageal 
varices and HCC s/p TACE on ___ who presents to the ED with 
acute onset of of abdominal pain that woke him from sleep.

# Abdominal pain - Upon admission, liver enzymes were at 
baseline. CXR showed no acute cardiopulmonary process. RUQ 
showed no ascites, gallbladder or liver pathology. He had a 
temperature of 101.0 at 5 am. He was given vancomycin/cefepime 
in the ED, then and admitted to liver service.  On the floor, pt 
given dilaudid, blood cx drawn.  cultures negative and pain 
improved with transition to tramadol. Due to h/o fever to 101.5, 
pt started on ciprofloxacin ppx 500mg po BID for 7 days.  He was 
afebrile when he reached the floor and remained so during entire 
admission. LFTs etc remained at baseline.  Pain and fever 
attributed to post-TACE and pt sent home on tramadol.  He was 
given cefpodoxime 200mg po BID to finish his ___ecause cipro interacts with his home diabetes medication 
glyburide to cause hypoglycemia.

# cirrhosis - pt continued on home regimen of furosemide, 
amiloride, rifaximin, and lactulose.

# diabetes - pt on SSI while in house, then cont. on home 
glyburide after discharge.

# hypothyroidism - cont on home levothyroxine dose
 
Medications on Admission:
AMILORIDE 10 mg po qdaily  
FUROSEMIDE 20 mg po qdaily  
GLYBURIDE 20 mg po qdaily  
LACTULOSE 30 cc TID prn  
LEVOTHYROXINE 100 mcg po qdaily  
OMEPRAZOLE 40 mg po qdaily  
RIFAXIMIN 550 mg po BID  
MVA po qdaily  
 
Discharge Medications:
1. amiloride 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
2. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. glyburide 5 mg Tablet Sig: Four (4) Tablet PO once a day.  
4. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day): titrate to ___ bowel movements per day.  
5. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. cefpodoxime 200 mg Tablet Sig: One (1) Tablet PO twice a day 
for 5 days: last dose ___.
Disp:*10 Tablet(s)* Refills:*0*
10. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*21 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Post-TACE fever and abdominal pain

Secondary Diagnoses:
Hepatitis C
portal hypertension
liver tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You came to ___ because you were having abdominal pain and 
fever several days after your TACE procedure.  You had a chest 
x-ray, an ultrasound, and blood cultures which were normal.  
Your pain and fever are normal side effects of TACE so your 
symptoms were attributed to the procedure.  However, you were 
given a seven day course of antibiotics just to be safe.

The following changes were made to your medications:
1. Take Cefpodoxime 200mg by mouth twice a day for five days 
(last dose ___
2. Take tramadol 50mg by mouth every 4h as needed for pain.
 
Followup Instructions:
___